US04959476
Preparation of 5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid
A mixture of 0.8 g of 2-{[(1-carbamoyl-1,2-dimethylpropyl)amino]methyl}-5-ethylnicotinic acid (2.7 mmol) and 0.56 g sodium acetate (6.8 mmol) in 10 mL acetic acid is warmed until homogeneous and cooled to room temperature. The solution is treated with 0.88 g bromine (5.45 mmol), and the reaction is stirred at 25° C. for 16 hours, then at 75° C. for three days. The reaction mixture is partitioned between CH2Cl2 and water, and the organic phase is dried and concentrated in vacuo. The residue is recrystallized from ethyl acetate-hexanes to afford 0.4 g of the title product having mp 172°-175° C.

reactant | 2-{[(1-carbamoyl-1,2-dimethylpropyl)amino]methyl}-5-ethylnicotinic acid | 2.7 mmol, 0.8 g | C(N)(=O)C(C(C)C)(C)NCC1=C(C(=O)O)C=C(C=N1)CC | C15H23N3O3
reactant | sodium acetate | 6.8 mmol, 0.56 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 5.45 mmol, 0.88 g | BrBr | Br2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid | 0.4 g | C(C)C=1C=NC(=C(C(=O)O)C1)C=1NC(C(N1)(C)C(C)C)=O | C15H19N3O3
